* NMOS Common-Source Amplifier with Voltage Divider Biasing
* Shows DC operating point, AC small-signal gain, and transient behavior
*
* Tool: NGspice

* --- Power Supply ---
Vdd vdd 0 DC 5

* --- Input Signal ---
* DC bias at gate set by voltage divider; AC small signal overlaid
Vin in 0 DC 0 AC 10m SIN(0 10m 10k)

* --- Biasing ---
* Voltage divider sets gate bias ~2V
R1 vdd gate 300k
R2 gate 0 200k

* --- Coupling Capacitor (AC couples input to gate) ---
Cin in gate 1u

* --- MOSFET and Load ---
M1 drain gate source source NMOS_3P3 W=10u L=1u
Rs source 0 500
Rd vdd drain 2k

* --- Source Bypass Capacitor (boosts AC gain) ---
Cs source 0 10u

* --- Output Coupling Capacitor ---
Cout drain out 1u
Rload out 0 10k

* --- MOSFET Model (generic NMOS, 3.3V process-like) ---
.model NMOS_3P3 NMOS (
+ LEVEL=1
+ VTO=0.7
+ KP=120u
+ GAMMA=0.4
+ PHI=0.65
+ LAMBDA=0.04
+ CBD=20f
+ CBS=20f
+ PB=0.8
+ CGSO=200p
+ CGDO=200p
+ TOX=9n
+ )

* --- Analysis ---
.control
  * DC operating point
  op
  print all

  * AC analysis: small-signal gain vs frequency
  ac dec 100 100 100Meg
  plot vdb(out) title 'Common-Source Amplifier Voltage Gain (dB)'
  plot cph(v(out))*180/PI title 'Common-Source Amplifier Phase'

  * Transient: observe amplified 10kHz signal
  tran 0.5u 0.5m
  plot v(in) v(out) title 'Common-Source Amplifier Input vs Output'
.endc

.end


